US07737145B2
1,1-Dimethylethyl (1S,4S)-5-[[4-(methoxycarbonyl)phenyl]methyl]-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate (44.1 g, 127.3 mmol) was slurried in HCl (2 M in water, 0.6 L). The solid went into solution over 2 hours, and the solution was stirred for another 16 hours. The reaction was cooled to −5 C. and saturated K2CO3 was added slowly enough to keep the temperature below 0 C. to prevent ester hydrolysis. Once the pH was 11, the solution was extracted with CH2Cl2 until no product was observed in the water layer by TLC (3×). The combined organic fractions were concentrated under vacuum to obtain pure methyl 4-[[(1S,4S)-2,5-diazabicyclo[2.2.1]hept-2-yl]methyl]benzoate (30.3 g, 97%) as the freebase; 1H NMR (CD3OD) δ 7.98 (d, 2H), 7.49 (d, 2H), 4.00 (sbr, 1H), 3.90 (s, 3H), 3.88 (d, 1H), 3.80 (d, 1H), 3.57 (sbr, 1H), 3.39 (ddbr, 1H), 3.03 (ddbr, 1H), 2.88 (ddbr, 1H), 2.72 (ddbr, 1H), 2.09 (dbr, 1H), 1.75 (dbr, 1H) ppm.

reactant | 1,1-Dimethylethyl (1S,4S)-5-[[4-(methoxycarbonyl)phenyl]methyl]-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | 127.3 mmol, 44.1 g | COC(=O)C1=CC=C(C=C1)CN1[C@@H]2CN([C@H](C1)C2)C(=O)OC(C)(C)C | C19H26N2O4
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | HCl | 2 M, 0.6 L | Cl | ClH
product | methyl 4-[[(1S,4S)-2,5-diazabicyclo[2.2.1]hept-2-yl]methyl]benzoate | 30.3 g, 97% | [C@@H]12N(C[C@@H](NC1)C2)CC2=CC=C(C(=O)OC)C=C2 | C14H18N2O2
